US06262045B1
1.8. 5-Ethyl-8-fluoro-N,N-dimethyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetamide
A suspension of 1 g (2.73 mmol) of 5-ethyl-8-fluoro-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetic acid and of 0.7 g (4.3 mmol) of 1,1′-carbonylbis-1H-imidazole in 200 ml of tetrahydrofuran is stirred for 3 h at 50° C. The reaction mixture is cooled to 25° C., an excess of liquefied dimethylamine is added and the reaction mixture is stirred for 12 h at room temperature. It is concentrated under reduced pressure, 100 ml of dichloromethane and 100 ml of water are added and the organic phase is separated, washed with water, dried over magnesium sulphate and concentrated under reduced pressure. The resulting oil crystallizes from ether. After filtering and recrystallizing from ethyl acetate, 0.75 g (1.9 mmol) of white crystals is isolated.

reactant | 5-ethyl-8-fluoro-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetic acid | 2.73 mmol, 1 g | C(C)N1C2=C(C=3C=C(C=CC13)F)C(=NN(C2=O)C2=CC=CC=C2)CC(=O)O | C20H16FN3O3
reactant | 1,1′-carbonylbis-1H-imidazole | 4.3 mmol, 0.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylamine | CNC | C2H7N
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 5-Ethyl-8-fluoro-N,N-dimethyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetamide | 1.9 mmol, 0.75 g | C(C)N1C2=C(C=3C=C(C=CC13)F)C(=NN(C2=O)C2=CC=CC=C2)CC(=O)N(C)C | C22H21FN4O2
